US04005212
2-(4-Methylthiophenyl)oxirane (37 g.) is added, over the course of 20 minutes and at 30° C., to a solution of ethylenediamine (75 cc.) in methanol (56 cc.). After 16 hours at 20° C., ethanol (250 cc.) is added; the precipitate which forms is filtered off. Distilled water (375 cc.) is added to the ethanol solution and the oily impurity which separates out is extracted with diisopropyl ether (200 cc.). After concentrating the aqueous ethanolic solution under reduced pressure, N-[2-hydroxy-2-(4-methylthiophenyl)ethyl]ethylenediamine (37.9 g.) is obtained in the form of an oil.

reactant | 2-(4-Methylthiophenyl)oxirane | 37 g | CSC1=CC=C(C=C1)C1OC1 | C9H10OS
reactant | ethylenediamine | 75 cc | C(CN)N | C2H8N2
reactant | ethanol | 250 cc | C(C)O | C2H6O
solvent | methanol | 56 cc | CO | CH4O
product | N-[2-hydroxy-2-(4-methylthiophenyl)ethyl]ethylenediamine | 37.9 g | OC(CNCCN)C1=CC=C(C=C1)SC | C11H18N2OS
